* C:\Users\LENOVO\Desktop\Misc\EEC Lab\MEC\lab2_clipper_2019A3PS0443H_VISHWAS_GAUTAM.asc
V1 N001 0 SINE(0 20 50 0 0 0 10)
R1 V_out N001 100
D1 0 V_out 1N4148
V2 N002 0 SINE(0 20 50 0 0 0 10)
R2 V_out2 N002 100
D2 V_out2 0 1N4148
D3 0 V_out2 1N4148
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran 200ms
* NEGATIVE CLIPPER
* DUAL CLIPPER
.backanno
.end
